US07598423B2
Synthesis of 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid
The title compound is prepared essentially as described in Preparation 113 employing 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (3.20 g, 6.79 mmol) and potassium hydroxide (7.62 g, 136 mmol) in ethanol (100 mL) and water (25 mL) at reflux for 3 days. Evaporate volatiles and acidify with 1N hydrochloric acid and extract with three portions of methylene chloride. Combine organic layers, dry (sodium sulfate) and evaporate to afford the title compound as a white solid (1.10 g, 2.24 mmol, 33%): MS (m/z): 490 (M−H).

reactant | 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 6.79 mmol, 3.20 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=C1)C)O | C29H29NO5
reactant | potassium hydroxide | 136 mmol, 7.62 g | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 25 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid | 2.24 mmol, 1.10 g, 33% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)OC2OCCCC2)C=C1)C)O | C29H30O7
